US07579368B2
Methanesulfonyl chloride (0.7 mL, 9.0 mmol) was added to a cooled solution of 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (1.33 g, 5.8 mmol) in pyridine (25.0 mL). The reaction was stirred for 12 h and partitioned between partitioned between aqueous sodium bicarbonate and methylene chloride. The organic phase was washed with 1 M hydrochloric acid, aqueous sodium bicarbonate, and brine, dried over anhydrous magnesium sulfate and concentrated. Purification of the crude residue by chromatography over silica gel using 0-5% methanol in methylene chloride gave 4-(2-methanesulfonylamino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (0.70 g, 70%).

reactant | Methanesulfonyl chloride | 9.0 mmol, 0.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 5.8 mmol, 1.33 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
solvent | pyridine | 25.0 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2-methanesulfonylamino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.70 g, 70% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNS(=O)(=O)C | C12H25N3O4S
